US07851473B2
4-[4-(3-Cyanophenyl)-1,3-thiazol-2-yl]-N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (277 mg, 0.964 mmol), 3-(2-piperazin-1-yl-1,3-thiazol-4-yl)benzonitrile (237 mg, 0.877 mmol) and diisopropylethylamine (0.305 ml, 1.75 mmol) in dimethyl sulfoxide (2.9 ml) was stirred at 70° C. for 15 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and recrystallized from a mixed solvent of hexane and ethyl acetate to give 142 mg (39.6%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.964 mmol, 277 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 3-(2-piperazin-1-yl-1,3-thiazol-4-yl)benzonitrile | 0.877 mmol, 237 mg | N1(CCNCC1)C=1SC=C(N1)C=1C=C(C#N)C=CC1 | C14H14N4S
reactant | diisopropylethylamine | 1.75 mmol, 0.305 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.9 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-Cyanophenyl)-1,3-thiazol-2-yl]-N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide | 142 mg, 39.6% | C(#N)C=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=C(C(=NO1)C)C | C20H20N6O2S
